US09024018B2
3-Methyl-8-(1-methyl-4-phenyl-1H-imidazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-051)
Sodium hydride (60% in mineral oil, 19 mg, 0.467 mmol) was added in portions to a solution of 8-(4-phenyl-1H-imidazol-2-yl)-3-(prop-2-ynyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one hydrochloride (70 mg) in DMF (3 mL) and the mixture was sonicated several times until hydrogen evolution ceased. Methyl iodide (66 μL, 1.065 mmol) was added and the mixture was stirred overnight. The resulting solution was poured into ice and was then left at 4° C. for 5 hours. The precipitate was filtered and washed successively with water and diethyl ether. 10 mg of crude product obtained from a previous experiment was combined, and the crude mixture was absorbed on silica. The crude product was purified by flash chromatography using DCM:MeOH (95:5) as eluent to give the title compound as a bright yellow solid (25 mg, 23%). The NMR spectrum of the product showed that it contained ˜5/6% of either starting material or the regioisomer of the product. δH (DMSO-d6): 8.92 (1H, s), 7.89 (1H, s), 7.89-7.92 (2H, m), 7.38-7.42 (2H, m), 7.22-7.26 (1H, m), 3.98 (3H, s), 3.87 (3H, s).

reactant | Sodium hydride | 0.467 mmol, 19 mg | [H-].[Na+]
reactant | 8-(4-phenyl-1H-imidazol-2-yl)-3-(prop-2-ynyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one hydrochloride | 70 mg | Cl.C1(=CC=CC=C1)C=1N=C(NC1)C=1N=CN2C1N=NN(C2=O)CC#C
reactant | hydrogen | [H][H] | H2
reactant | Methyl iodide | 1.065 mmol, 66 μL | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-Methyl-8-(1-methyl-4-phenyl-1H-imidazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 25 mg, 23% | CN1N=NC=2N(C1=O)C=NC2C=2N(C=C(N2)C2=CC=CC=C2)C | C15H13N7O
